US06159901
Production of 5-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid (compound No. VI-10)
3-(trifluoromethyl) phenol (1.317 g, 0.0081 mol) was dissolved in 10 ml of dried dimethyl acetamide. While cooling the obtained solution with water, sodium hydride (0.39 g (ca. 60% in mineral oil), 0.0081×1.2 mol) was added to the solution. After completion of the foaming, a solution obtained by dissolving 6-bromo-5-methoxy-2-pyridine carboxylic acid methyl ester (2.0 g, 0.0081 mol) in 10 ml of dried dimethyl acetamide, and then copper iodide (1.55 g, 0.081 mol) were successively added to the solution. The obtained mixture was heated and stirred at 120° C. for 10 hours. Thereafter, the obtained reaction solution was cooled, mixed with 50 ml of water and then with 50 ml of ethyl acetate, and filtered through a glass filter provided with Hyflo Super-Cell. The obtained filtrate was extracted with ethyl acetate to obtain an aimed product. An organic phase was separated from the product, washed with water and then dried with anhydrous sodium sulfate. The dried product was concentrated, and the obtained residues were purified by silica gel column chromatography (eluting solution: ethyl acetate/hexane).

reactant | 3-(trifluoromethyl) phenol | 0.0081 mol, 1.317 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
reactant | water | O | H2O
reactant | sodium hydride | 1.2 mol, 0.39 g | [H-].[Na+]
reactant | 6-bromo-5-methoxy-2-pyridine carboxylic acid methyl ester | 0.0081 mol, 2.0 g | COC(=O)C1=NC(=C(C=C1)OC)Br | C8H8BrNO3
reactant | water | 50 ml | O | H2O
solvent | dimethyl acetamide | 10 ml | CC(=O)N(C)C | C4H9NO
solvent | dimethyl acetamide | 10 ml | CC(=O)N(C)C | C4H9NO
catalyst | copper iodide | 0.081 mol, 1.55 g | [Cu](I)I
product | 5-methoxy-6-[3-(trifluoromethyl)phenoxy] picolinic acid | COC=1C=CC(=NC1OC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H10F3NO4
